US05256679
A mixture of 1-(2-chloro-5-thiazolylmethyl)-1- phenoxycarbonyl-3-methyl-2-nitroguanidine (Compound No. 6), CH3CN (15 ml) and pyridine (0.55 ml) was cooled to 3°-C. followed by addition of phenyl chlorocarbonate (1.7 ml) in CH3CN (3 ml) below 8° C. over 2 minutes under stirring. After stirring at the same temperature for 1 hour and 25 minutes and then at room temperature for 1 hour, pyridine (0.55 ml) and phenyl chlorocarbonate (1.7 ml) was added to the mixture followed by stirring at room temperature for 1 hour and 15 minutes and at 40° C. for 2 hours. Additional phenyl chlorocarbonate (1.7 ml) was added to the mixture which was stirred for 20 minutes. To the reaction mixture was added CHCl3 (30 ml) and then a mixture of conc. hydrochloric acid (2 ml) and water (8 ml). The reaction mixture was partitioned and the aqueous layer was extracted with CHCl3 (20 ml×3). The combined organic layers were dried over MgSO4 and concentrated in vacuo. The resulting residue was applied to column chromatography on silica gel. The column was eluted with hexane-AcOEt (3:2) to afford 0.7 g of 1-(2-chloro-5-thiazolylmethyl)-I,3-diphenoxycarbonyl-3-methyl-2-nitroguanidine (Compound No. 2) as an oil.

reactant | 1-(2-chloro-5-thiazolylmethyl)-1- phenoxycarbonyl-3-methyl-2-nitroguanidine | ClC=1SC(=CN1)CN(C(=N[N+](=O)[O-])NC)C(=O)OC1=CC=CC=C1 | C13H12ClN5O4S
reactant | pyridine | 0.55 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chlorocarbonate | 1.7 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | pyridine | 0.55 ml | N1=CC=CC=C1 | C5H5N
reactant | phenyl chlorocarbonate | 1.7 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | phenyl chlorocarbonate | 1.7 ml | C(OC1=CC=CC=C1)(=O)Cl | C7H5ClO2
reactant | hydrochloric acid | 2 ml | Cl | ClH
solvent | CH3CN | 3 ml | CC#N | C2H3N
solvent | CH3CN | 15 ml | CC#N | C2H3N
solvent | water | 8 ml | O | H2O
solvent | CHCl3 | 30 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(2-chloro-5-thiazolylmethyl)-I,3-diphenoxycarbonyl-3-methyl-2-nitroguanidine | 0.7 g | ClC=1SC(=CN1)CN(C(=N[N+](=O)[O-])N(C)C(=O)OC1=CC=CC=C1)C(=O)OC1=CC=CC=C1 | C20H16ClN5O6S
